US05608056
To a solution of (2R,4S)-4-acetylthio-1-allyloxy-carbonyl-2-(2-azidoethyl) pyrrolidine (14.7 g) in methanol (74 ml) was added dropwise 4.8N sodium methoxide in methanol (11.3 ml) under ice-cooling. After stirring for 1 hour at 0° C., triphenylmethyl chloride (14.4 g) was added to the mixture. After stirring for 5 hours at 0° C., the mixture was poured into ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was column chromatographed on silica gel (hexane:ethyl acetate=10:1 to 5:1) to give (2R,4S)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-(triphenylmethylthio)pyrrolidine (16.5 g).

reactant | (2R,4S)-4-acetylthio-1-allyloxy-carbonyl-2-(2-azidoethyl) pyrrolidine | 14.7 g | C(C)(=O)S[C@H]1C([C@H](N(C1)OCC=C)CCN=[N+]=[N-])=C=O | C12H16N4O3S
reactant | sodium methoxide | 4.8N | C[O-].[Na+]
reactant | triphenylmethyl chloride | 14.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 74 ml | CO | CH4O
solvent | methanol | 11.3 ml | CO | CH4O
solvent | water | O | H2O
product | (2R,4S)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-(triphenylmethylthio)pyrrolidine | 16.5 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN=[N+]=[N-] | C29H30N4O2S
